US07304081B2
1′-({1-[4-(2-Phenylethoxy)phenyl]cyclopropyl}carbonyl)-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one
1-(4-Hydroxyphenyl)cyclopropane-carboxylic acid (0.19 g, 1.0 mmol), benzotriazol-1-yloxytris(dimethylamino) phosphonium hexafluorophosphate (0.24 g, 1.0 mmol) and N,N-dimethylformamide (1.5 ml) were mixed with stirring at room temperature for ten minutes. To the mixture, with stirring, was added 3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one dihydrochloride (0.47 g, 1.0 mmol), followed by N,N-Diisopropylethylamine (0.55 ml, 3.2 mmol). The resulting mixture was stirred at r.t. overnight. Then the reaction was quenched with water, and the reaction mixture was extracted with ethyl acetate. The extract was washed with saturated KH2PO4 solution (×2), water (×1), saturated NaHCO3 solution (×2), water (×1) and brine (×1) successively; then dried over Na2SO4; and then filtered. The filtrate was concentrated. The residue was further dried under high vacuum, and the desired product was obtained (0.43 g).

reactant | 1-(4-Hydroxyphenyl)cyclopropane-carboxylic acid | 1.0 mmol, 0.19 g | OC1=CC=C(C=C1)C1(CC1)C(=O)O | C10H10O3
reactant | benzotriazol-1-yloxytris(dimethylamino) phosphonium hexafluorophosphate | 1.0 mmol, 0.24 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one dihydrochloride | 1.0 mmol, 0.47 g | Cl.Cl.N1CC2(CC1)OC(C=1C=NC=CC12)=O
reactant | N,N-Diisopropylethylamine | 3.2 mmol, 0.55 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 1′-({1-[4-(2-Phenylethoxy)phenyl]cyclopropyl}carbonyl)-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one | C1(=CC=CC=C1)CCOC1=CC=C(C=C1)C1(CC1)C(=O)N1CC2(CC1)OC(C=1C=NC=CC12)=O | C28H26N2O4
